US06455617B1
CH3Si(OCOCH3)3;
C2H5Si(OCOCH3)3; (CH2═CH)Si(OCOCH3)3; C6H5Si(OCOCH3)3; CF3CH2CH2Si(OCOCH3)3; NC—CH2CH2Si(OCOCH3)3; CH2ClSi(OCOCH2CH3)3; CH3Si(ON═C(CH3)C2H5)2OCH2CH2OCH3; CH3Si(ON═CH—CH3)2OCH2CH2OCH3.

reactant | C2H5Si(OCOCH3)3 | C(C)[Si](OC(=O)C)(OC(=O)C)OC(=O)C | C8H14O6Si
reactant | C6H5Si(OCOCH3)3 | C1(=CC=CC=C1)[Si](OC(=O)C)(OC(=O)C)OC(=O)C | C12H14O6Si
reactant | CF3CH2CH2Si(OCOCH3)3 | C(F)(F)(F)CC[Si](OC(=O)C)(OC(=O)C)OC(=O)C | C9H13F3O6Si
reactant | NC—CH2CH2Si(OCOCH3)3 | C(#N)CC[Si](OC(=O)C)(OC(=O)C)OC(=O)C | C9H13NO6Si
product | CH3Si(OCOCH3)3 | C[Si](OC(=O)C)(OC(=O)C)OC(=O)C | C7H12O6Si
